US20010021718A1
(3R)-6-Cyclohexyl-N-hydroxy-3-{3-[(propylsulfonyl)methyl]-1,2,4-oxadiazol-5-yl}hexanamide
A solution of (3R)-6-cyclohexyl-3-{3-[(propylsulfonyl)methyl]-1,2,4-oxadiazol-5-yl}hexanoic acid (Preparation 97) (298 mg, 0.77 mmol) and 2,6-lutidine (135 μl, 1.16 mmol) in dichloromethane (10 ml) was cooled to 0° C., treated with isobutyl chloroformate (100 μl, 0.77 mmol) and stirred under a nitrogen atmosphere for 1 hour. O-(Trimethylsilyl)hydroxylamine (310 μl, 2.31 mmol) was added and the mixture was stirred for 4 hours, being allowed to warm to room temperature over this time. The mixture was then treated with methanol (5 ml) and stirred at room temperature for 1 hour. The solvent was removed under reduced pressure. The residue was dissolved in ethyl acetate and washed with hydrochloric acid (1M) and brine, dried over anhydrous magnesium sulphate, filtered and the solvent removed under reduced pressure. The oil was purified by column chromatography on silica gel eluting with a gradient system of 100:0 (dichloromethane:methanol) gradually changing to 95:5 (dichloromethane:methanol) to afford the title compound as a white solid (140 mg).

reactant | (3R)-6-cyclohexyl-3-{3-[(propylsulfonyl)methyl]-1,2,4-oxadiazol-5-yl}hexanoic acid | 0.77 mmol, 298 mg | C1(CCCCC1)CCC[C@H](CC(=O)O)C1=NC(=NO1)CS(=O)(=O)CCC | C18H30N2O5S
reactant | 2,6-lutidine | 1.16 mmol, 135 μl | N1=C(C=CC=C1C)C | C7H9N
reactant | isobutyl chloroformate | 0.77 mmol, 100 μl | ClC(=O)OCC(C)C | C5H9ClO2
reactant | O-(Trimethylsilyl)hydroxylamine | 2.31 mmol, 310 μl | C[Si](ON)(C)C | C3H11NOSi
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | methanol | 5 ml | CO | CH4O
product | (3R)-6-Cyclohexyl-N-hydroxy-3-{3-[(propylsulfonyl)methyl]-1,2,4-oxadiazol-5-yl}hexanamide | 140 mg | C1(CCCCC1)CCC[C@H](CC(=O)NO)C1=NC(=NO1)CS(=O)(=O)CCC | C18H31N3O5S
